.subckt fsdpmq_x1 Q CK D0 D1 S SI SE VDD VSS
XFSDPMQ_si_P0 FSDPMQ_s_b S VDD VDD pmos w=2u l=100n
XFSDPMQ_si_N0 FSDPMQ_s_b S VSS VSS nmos w=1u l=100n
XFSDPMQ_mmx_MP0 FSDPMQ_md S D0 VDD pmos w=2u l=100n
XFSDPMQ_mmx_MN0 FSDPMQ_md FSDPMQ_s_b D0 VSS nmos w=1u l=100n
XFSDPMQ_mmx_MP1 FSDPMQ_md FSDPMQ_s_b D1 VDD pmos w=2u l=100n
XFSDPMQ_mmx_MN1 FSDPMQ_md S D1 VSS nmos w=1u l=100n
XFSDPMQ_sei_P0 FSDPMQ_se_b SE VDD VDD pmos w=2u l=100n
XFSDPMQ_sei_N0 FSDPMQ_se_b SE VSS VSS nmos w=1u l=100n
XFSDPMQ_smx_MP0 FSDPMQ_din SE FSDPMQ_md VDD pmos w=2u l=100n
XFSDPMQ_smx_MN0 FSDPMQ_din FSDPMQ_se_b FSDPMQ_md VSS nmos w=1u l=100n
XFSDPMQ_smx_MP1 FSDPMQ_din FSDPMQ_se_b SI VDD pmos w=2u l=100n
XFSDPMQ_smx_MN1 FSDPMQ_din SE SI VSS nmos w=1u l=100n
XFSDPMQ_ck_P0 FSDPMQ_ck_b CK VDD VDD pmos w=2u l=100n
XFSDPMQ_ck_N0 FSDPMQ_ck_b CK VSS VSS nmos w=1u l=100n
XFSDPMQ_m_in_P FSDPMQ_m_n1 CK FSDPMQ_din VDD pmos w=2u l=100n
XFSDPMQ_m_in_N FSDPMQ_m_n1 FSDPMQ_ck_b FSDPMQ_din VSS nmos w=1u l=100n
XFSDPMQ_m_i1_P0 FSDPMQ_m_n2 FSDPMQ_m_n1 VDD VDD pmos w=2u l=100n
XFSDPMQ_m_i1_N0 FSDPMQ_m_n2 FSDPMQ_m_n1 VSS VSS nmos w=1u l=100n
XFSDPMQ_m_i2_P0 FSDPMQ_m_n1 FSDPMQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDPMQ_m_i2_N0 FSDPMQ_m_n1 FSDPMQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDPMQ_m_fb_P FSDPMQ_m_n1 FSDPMQ_ck_b FSDPMQ_m_n2 VDD pmos w=2u l=100n
XFSDPMQ_m_fb_N FSDPMQ_m_n1 CK FSDPMQ_m_n2 VSS nmos w=1u l=100n
XFSDPMQ_m_o_P0 FSDPMQ_qm FSDPMQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDPMQ_m_o_N0 FSDPMQ_qm FSDPMQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDPMQ_s_in_P FSDPMQ_s_n1 FSDPMQ_ck_b FSDPMQ_qm VDD pmos w=2u l=100n
XFSDPMQ_s_in_N FSDPMQ_s_n1 CK FSDPMQ_qm VSS nmos w=1u l=100n
XFSDPMQ_s_i1_P0 FSDPMQ_s_n2 FSDPMQ_s_n1 VDD VDD pmos w=2u l=100n
XFSDPMQ_s_i1_N0 FSDPMQ_s_n2 FSDPMQ_s_n1 VSS VSS nmos w=1u l=100n
XFSDPMQ_s_i2_P0 FSDPMQ_s_n1 FSDPMQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDPMQ_s_i2_N0 FSDPMQ_s_n1 FSDPMQ_s_n2 VSS VSS nmos w=1u l=100n
XFSDPMQ_s_fb_P FSDPMQ_s_n1 CK FSDPMQ_s_n2 VDD pmos w=2u l=100n
XFSDPMQ_s_fb_N FSDPMQ_s_n1 FSDPMQ_ck_b FSDPMQ_s_n2 VSS nmos w=1u l=100n
XFSDPMQ_s_o_P0 Q FSDPMQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDPMQ_s_o_N0 Q FSDPMQ_s_n2 VSS VSS nmos w=1u l=100n
.ends fsdpmq_x1
